US07354925B2
Step 1. tert-Butyl 3-(6-fluoro-1H,3H-spiro[2-benzofuran-1,4′-piperidin]-1′-yl)-2-(hydroxymethyl)propanoate
The title compound was prepared according to the procedure described in step 4 of example 4 from 6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] (J. Med. Chem. 1995, 38, 2009.) and tert-butyl 2-(hydroxymethyl)acrylate (Synlett 1997, 12, 1417.):

reactant | 6-fluoro-3H-spiro[2-benzofuran-1,4′-piperidine] | FC=1C=CC2=C(C1)C1(CCNCC1)OC2 | C12H14FNO
reactant | tert-butyl 2-(hydroxymethyl)acrylate | OCC(C(=O)OC(C)(C)C)=C | C8H14O3
product | tert-Butyl 3-(6-fluoro-1H,3H-spiro[2-benzofuran-1,4′-piperidin]-1′-yl)-2-(hydroxymethyl)propanoate | FC=1C=CC2=C(C1)C1(CCN(CC1)CC(C(=O)OC(C)(C)C)CO)OC2 | C20H28FNO4
